US08242116B2
2-Amino-6,6-dimethyl-6,7-dihydro[1,3]thiazolo[5,4-c]pyridin-4(5H)-one
To a stirred suspension of Intermediate 3 (0.50 g, 3.55 mmol) in THF (10 mL) was added Br2 (0.59 g, 0.19 mL, 3.72 mmol) dropwise at 0° C. The reaction mixture was then allowed to warm to r.t. and thiourea (0.27 g, 3.55 mmol), DIPEA (1.37 g, 1.85 mL, 10.65 mmol) and THF (5 mL) were added. The reaction mixture was heated to 85° C. for 1 h, cooled to r.t., and then EtOAc (10 mL) and water (10 mL) were added. The aqueous layer was extracted with EtOAc (2×15 mL) and the combined organic layers were washed with aqueous sat. NaHCO3 solution (15 mL) and brine (3×15 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (0.37 g, 53%) as a yellow solid that was used without further purification. δH (DMSO-d6) 7.63 (2H, s), 7.17 (1H, s), 2.62 (2H, s), 1.23 (6H, s). LCMS (ES+) 198.0 (M+H)+.

reactant | Br2 | 3.72 mmol, 0.19 mL, 0.59 g | BrBr | Br2
reactant | thiourea | 3.55 mmol, 0.27 g | NC(=S)N | CH4N2S
reactant | DIPEA | 10.65 mmol, 1.85 mL, 1.37 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-Amino-6,6-dimethyl-6,7-dihydro[1,3]thiazolo[5,4-c]pyridin-4(5H)-one | 0.37 g, 53% | NC=1SC=2C(NC(CC2N1)(C)C)=O | C8H11N3OS
